US07101880B2
Synthesis of 2(S)-(tert-butoxycarbonyl)amino-1-(oxazolo[4,5-b]pyridin-2-yl)butan-1-ol
In a clean roundbottom flask equipped with stir bar was placed oxazolo[4,5-b]pyridine (600 mg, 5 mmol) in THF (30 mL) and the reaction mixture was cooled to 0° C. under N2 atomosphere. Isopropylmagnesium chloride (2 M in THF, 2.5 mL, 5 mmol) was added. After stirring for 1 h at 0° C., (S)-2-(tert-butoxycarbonyl)aminobutyraldehyde (573 mg, 3 mmol) in THF (20 mL) was added. The ice bath was removed and the reaction mixture was allowed to warm to room temperature. After 2 h, the reaction mixture was quenched with saturated ammonium chloride solution and concentrated to dryness. The residue was extracted with EtOAc, then washed with brine, dried with anhyd. MgSO4, filtered and concentrated. The crude product was purified by chromatograph to yield 383 mg of the desired compound.

reactant | oxazolo[4,5-b]pyridine | 5 mmol, 600 mg | O1C=NC2=NC=CC=C21 | C6H4N2O
reactant | Isopropylmagnesium chloride | 5 mmol, 2 M, 2.5 mL | C(C)(C)[Mg]Cl
reactant | (S)-2-(tert-butoxycarbonyl)aminobutyraldehyde | 3 mmol, 573 mg | C(C)(C)(C)OC(=O)N[C@H](C=O)CC | C9H17NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2(S)-(tert-butoxycarbonyl)amino-1-(oxazolo[4,5-b]pyridin-2-yl)butan-1-ol | 383 mg | C(C)(C)(C)OC(=O)N[C@H](C(O)C=1OC=2C(=NC=CC2)N1)CC | C15H21N3O4
